US05486527
3-(Diphenylhydroxymethyl)-1-[2-(2-pyridyl)ethyl]piperidine
A mixture of 3-(diphenylhydroxymethyl)piperidine (267 mg, 1.0 mmol), 2-vinylpyridine (0.32 g, 3.0 mol) and Triton B (3 drops) in 1-butanol (10 ml) was heated under reflux for 18 hours, diluted with water and ethyl acetate and the layers separated. The organic layer was washed with water, dried over magnesium sulphate and evaporated. The residue was twice taken up in toluene and evaporated and it was then purified by chromatography on SiO2 using dichloromethane plus 0-5% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound (80 mg) as a pale brown oil which was characterised containing 0.25 equivalents of water.

reactant | 3-(diphenylhydroxymethyl)piperidine | 1.0 mmol, 267 mg | C1(=CC=CC=C1)C(C1CNCCC1)(O)C1=CC=CC=C1 | C18H21NO
reactant | 2-vinylpyridine | 3.0 mol, 0.32 g | C(=C)C1=NC=CC=C1 | C7H7N
solvent | 1-butanol | 10 ml | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Diphenylhydroxymethyl)-1-[2-(2-pyridyl)ethyl]piperidine | 80 mg | C1(=CC=CC=C1)C(C1CN(CCC1)CCC1=NC=CC=C1)(O)C1=CC=CC=C1 | C25H28N2O
